US07834190B2
Production of (2S,3R)-3-propyl-2-oxiranecarboxylic cyclopropylamide
(2S,3R)-3-Propyl-2-oxiranecarboxylic acid (118 mg, 0.8 mmol), triethylamine (0.8 mmol) and tetrahydrofuran (2 ml) were mixed, and the mixture was cooled to −20° C. A tetrahydrofuran solution (1 ml) of ethoxycarbonyl chloride (86 mg, 0.8 mmol) was gradually added, and the mixture was stirred at the same temperature for 30 minutes. A tetrahydrofuran solution (1 ml) of cyclopropylamine (48 mg, 0.8 mmol) was gradually added dropwise, and the mixture was stirred at the same temperature for 2 hours and at room temperature for 2 hours. After the reaction was quenched with water (10 ml), ethyl acetate (10 ml) was added and the solvent was evaporated away under reduced pressure. The mixture was extracted with ethyl acetate (10 ml), and washed with water (5 ml). The solvent was evaporated away under reduced pressure to obtain the title compound as a colorless oil (0.10 g, yield: 76%).

reactant | (2S,3R)-3-Propyl-2-oxiranecarboxylic acid | 0.8 mmol, 118 mg | C(CC)[C@@H]1[C@H](O1)C(=O)O | C6H10O3
reactant | triethylamine | 0.8 mmol | C(C)N(CC)CC | C6H15N
reactant | ethoxycarbonyl chloride | 0.8 mmol, 86 mg | C(C)OC(=O)Cl | C3H5ClO2
reactant | cyclopropylamine | 0.8 mmol, 48 mg | C1(CC1)N | C3H7N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | (2S,3R)-3-propyl-2-oxiranecarboxylic cyclopropylamide | 0.10 g, yield: 76% | C1(CC1)NC(=O)[C@H]1O[C@@H]1CCC | C9H15NO2
